US04455422
2.3 Grams of 6-(3-chloro-1-propenyl)-3,4-dihydrocarbostyril, 2.0 g of 4-benzylpiperazine and 2.0 ml of triethylamine were mixed in 50 ml of dimethylformamide and the mixture was stirred at 50° C. for 3 hours. The reaction mixture was poured into a mixture of 50 ml of a saturated sodium chloride aqueous solution with 50 ml of 5% of sodium hydrogencarbonate aqueous solution, and the organic layer was extracted with chloroform. The chloroform layer was washed with water and dried, then chloroform was removed by distillation to obtain a residue. The residue was recrystallized from ethanol-water to obtain 2.1 g of 6-[3-(4-benzylpiperazinyl)-1-propenyl]-3,4-dihydrocarbostyril, having the melting point of 151°-153° C. in colorless needle-like crystals. Then 2.1 g of 6-[3-(4-benzylpiperazinyl)-1-propenyl]-3,4-dihydrocarboxtyril, 0.2 g of platinum black and 2 ml of concentrated hydrochloric acid were mixed with 100 ml of ethanol and the mixture was subjected to catalytic reduction under 3 kg/cm2 of hydrogen gas at a room temperature for 5 hours. The reaction mixture was filtered and the mother liquor was concentrated to obtain a residue. The residue was recrystallized from methanol to obtain 1.8 g of 6-(3-piperzinopropyl)-3,4-dihydrocarbostyril dihydrochloride in colorless needle-like crystals. Melting point: 275° -278° C. (decomposed).

reactant | 6-(3-chloro-1-propenyl)-3,4-dihydrocarbostyril | ClCC=CC=1C=C2CCC(NC2=CC1)=O | C12H12ClNO
reactant | 4-benzylpiperazine | 2.0 g | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | sodium chloride | 50 ml | [Cl-].[Na+]
reactant | sodium hydrogencarbonate | 50 ml | C(O)([O-])=O.[Na+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 2.0 ml | C(C)N(CC)CC | C6H15N
product | 6-[3-(4-benzylpiperazinyl)-1-propenyl]-3,4-dihydrocarbostyril | 2.1 g | C(C1=CC=CC=C1)N1CCN(CC1)CC=CC=1C=C2CCC(NC2=CC1)=O | C23H27N3O
